US04507297
Monoethyl trans-epoxy succinate (3.52 g) and 1-L-leucyl-4-(2-pyrimidinyl)piperazine (6.10 g) were condensed in the same manner as employed in the preparation of ethyl trans-3-[(s)-3-methyl-1-{4-(2-pyridyl)piperazine-1-yl carbonyl}butylcarbamoyl]oxirane-2-carboxylate to yield 8.50 g of ethyl trans-3-[(s)-3-methyl-1-{4-(2-pyrimidinyl)piperazine-1-yl carbonyl}butylcarbamoyl]oxirane-2-carboxylate (yield: 92.1%).

reactant | 1-L-leucyl-4-(2-pyrimidinyl)piperazine | 6.10 g | N[C@@H](CC(C)C)C(=O)N1CCN(CC1)C1=NC=CC=N1 | C14H23N5O
reactant | ethyl trans-3-[(s)-3-methyl-1-{4-(2-pyridyl)piperazine-1-yl carbonyl}butylcarbamoyl]oxirane-2-carboxylate | CC(C[C@@H](C(=O)N1CCN(CC1)C1=NC=CC=C1)NC(=O)[C@H]1[C@@H](O1)C(=O)OCC)C | C21H30N4O5
product | ethyl trans-3-[(s)-3-methyl-1-{4-(2-pyrimidinyl)piperazine-1-yl carbonyl}butylcarbamoyl]oxirane-2-carboxylate | 8.50 g, yield: 92.1% | CC(C[C@@H](C(=O)N1CCN(CC1)C1=NC=CC=N1)NC(=O)[C@H]1[C@@H](O1)C(=O)OCC)C | C20H29N5O5
